US06906072B1
Reference Example 42 2-[3-(1,3-dioxolan-2-yl)-2Thienyl)-4-methylbutyronitrile
1.43 g (7.32 mmol) of 3-(1,3-dioxolan-2-yl)-2-thiopheneacetonitrile was dissolved in 2 ml of dimethyl sulfoxide, and 1.08 g (8.78 mmol) of 2-bromopropane, 100 mg (cat) of tetra-n-butylammonium iodide and 3 ml of 50% potassium hydroxide were successively added. After 25 minutes, 300 mg of 2-bromopropane, further after 50 minutes, 1 ml of 50% potassium hydroxide and 2 ml of DMSO were added. After completion of the reaction, brine was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to obtain a crude product. The crude product was subjected to 100 g of silica gel (ethyl acetate:hexane=1:8), to give 853 mg (3.59 mmol, 49.1%) of the title compound as a yellow oil.

reactant | 3-(1,3-dioxolan-2-yl)-2-thiopheneacetonitrile | 7.32 mmol, 1.43 g | O1C(OCC1)C1=C(SC=C1)CC#N | C9H9NO2S
reactant | 2-bromopropane | 8.78 mmol, 1.08 g | BrC(C)C | C3H7Br
reactant | potassium hydroxide | 3 ml | [OH-].[K+]
reactant | 2-bromopropane | 300 mg | BrC(C)C | C3H7Br
reactant | potassium hydroxide | 1 ml | [OH-].[K+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
catalyst | tetra-n-butylammonium iodide | 100 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | brine | [Cl-].[Na+].O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 2-[3-(1,3-dioxolan-2-yl)-2Thienyl)-4-methylbutyronitrile | 3.59 mmol, 853 mg, 49.1% | O1C(OCC1)C1=C(SC=C1)C(C#N)CCC | C12H15NO2S
